US04814454
6-[(4-Hydroxyphenyl)amino]-2-naphthalenol
A mixture of 300 mg (2.75 mmol, Aldrich) of 4-aminophenol, 1.5 g (90%, 8.4 mmol, Aldrich) of 2,6-dihydroxynaphthalene and 1.0 g (9.6 mmol, Aldrich), of sodium bisulfite in 30 ml of H2O was refluxed for 18 hours. The reaction mixture was cooled, added to 30 ml of H2O and extracted with two 25 ml portions of ethyl acetate. The organic extracts were combined, dried (MgSO4), and concentrated in vacuo to give a solid. The crude solid was purified by flash chromatography (15×5.0 cm, 1:2 EtOAc/pet ether) followed by recrystallization (EtOAc/pet ether) to afford 215 mg (31%) of title compound as pale pink crystals, m.p. 195°-196°.

reactant | 4-aminophenol | 2.75 mmol, 300 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | 2,6-dihydroxynaphthalene | 8.4 mmol, 1.5 g | OC1=CC2=CC=C(C=C2C=C1)O | C10H8O2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | H2O | 30 ml | O | H2O
solvent | H2O | 30 ml | O | H2O
product | 6-[(4-Hydroxyphenyl)amino]-2-naphthalenol | 215 mg, 31% | OC1=CC=C(C=C1)NC=1C=C2C=CC(=CC2=CC1)O | C16H13NO2
